US05608056
To a solution of 1-{(2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(4-pyridyl)methanol (32.73 g) in ethanol (300 ml) was added acetic acid (9.4 ml) and palladium hydroxide on carbon (10 g). The mixture was stirred vigorously under an atmosphere of hydrogen at room temperature for 6 hours. The palladium catalyst was removed by filtration and washed with ethanol. The combined organic layer was evaporated under reduced pressure to give a residue. To a solution of the residue in water (300 ml) and tetrahydrofuran (THF) (300 ml) was added dropwise allyl chloroformate (9.6 ml) under pH 9~10 at 0° C. After stirring the mixture at 0° C. for 1 hour, the reaction mixture was extracted three times with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel (eluting with ethyl acetate:n-hexane=7:3) to give 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(4-pyridyl)methanol (21.74 g).

reactant | 1-{(2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(4-pyridyl)methanol | 32.73 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C1=CC=NC=C1 | C23H34N2O2Si
reactant | acetic acid | 9.4 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | allyl chloroformate | 9.6 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
catalyst | palladium hydroxide on carbon | 10 g | [OH-].[OH-].[Pd+2]
product | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy) pyrrolidin-2-yl}-1-(4-pyridyl)methanol | 21.74 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C1=CC=NC=C1 | C20H32N2O4Si
